US05559126
6-Fluoro-3-[1-[3-[(1H-indol-5-yl)oxy]propyl]-4-piperidinyl]-1,2-benzisoxazole
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.6 g, 11.8 mmol), K2CO3 (1.6 g, 11.6 mmol), KI (200 mg), 5-(3-chloropropoxy)indole (2.2 g, 10.5 mmol and CH3CN (100 ml) was stirred at reflux under N2 for 18 hours. The cooled reaction was poured into H2O and the aqueous mixture was extracted with EtOAc. The EtOAc extract was washed 2 times with H2O, 2 times with brine and after drying with MgSO4 the solvent was removed in vacuo to yield 5.1 g of a dark oil. The oil was purified by preparative HPLC (Water's Associates Prep LC/System 500, using 2 silica gel columns and 4% MeOH--CH2Cl2 as eluent) to afford 2.65 g (65%) of a beige solid. Recrystallization from ethanol gave 2.2 g (54%) of a beige powder, m.p.=118°-121° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 11.8 mmol, 2.6 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 11.6 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(3-chloropropoxy)indole | ClCCCOC=1C=C2C=CNC2=CC1 | C11H12ClNO
reactant | CH3CN | 100 ml | CC#N | C2H3N
solvent | H2O | O | H2O
product | 6-Fluoro-3-[1-[3-[(1H-indol-5-yl)oxy]propyl]-4-piperidinyl]-1,2-benzisoxazole | 5.1 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC=2C=C3C=CNC3=CC2)C=C1 | C23H24FN3O2
